US09353066B2
1-(methylsulfonyl)piperazine (627 mg, 3.82 mmol) was added to a solution of 1-fluoro-3-iodo-5-nitrobenzene (510 mg, 1.91 mmol) in dimethylsulfoxide (2 mL). The reaction was heated to 130° C. for 60 minutes in the microwave reaction, then allowed to cool to room temperature. The reaction mixture was diluted with ethyl acetate (30 mL) and washed with 1:1 water:brine (3×30 mL). The organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) provided 1-(3-iodo-5-nitrophenyl)-4-(methylsulfonyl)piperazine as a bright yellow foam. 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 7.70 (s, 1H), 7.51 (s, 1H), 3.42 (s, 8H), 2.87 (s, 3H).

reactant | 1-(methylsulfonyl)piperazine | 3.82 mmol, 627 mg | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | 1-fluoro-3-iodo-5-nitrobenzene | 1.91 mmol, 510 mg | FC1=CC(=CC(=C1)[N+](=O)[O-])I | C6H3FINO2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3-iodo-5-nitrophenyl)-4-(methylsulfonyl)piperazine | IC=1C=C(C=C(C1)[N+](=O)[O-])N1CCN(CC1)S(=O)(=O)C | C11H14IN3O4S
